US05240937
A mechanically stirred solution of 4-[(2-fluorobenzyl)amino]-3-nitropyridine (37.62 g, 152.17 mmol) in concentrated hydrochloric acid (400 mL) was heated to 90° under a nitrogen atmosphere. Stannous chloride dihydrate (174.88 g, 775.07 mmol) was added in small portions over a 20 min period. When the reaction became vigorous, the oil bath was removed until the reaction subsided. After 45 min at an increased temperature to 120° for 45 min, the reaction mixture was cooled, diluted with water (350 mL) and spin evaporated in vacuo. The residue was diluted with water (600 mL), cooled in an ice-bath and concentrated ammonium hydroxide (250 mL) was added to adjust the pH to 7-8. The solid were collected and allowed to air dry overnight. The solid cake was broken up and suspended in ethyl acetate (3×1 L). Each suspension was refluxed with the refluxing time varying from 3.5 hrs to 18 hrs. The ethyl acetate was filtered and evaporated in vacuo to yield 3-amino-2-chloro-4-[(2-fluorobenzyl)amino]pyridine (27.13 g, 71%) as an off-white solid, mp.=181°-187°. The analytical sample was prepared by essentially the same preparative method and was purified by column chromatography.

reactant | 4-[(2-fluorobenzyl)amino]-3-nitropyridine | 152.17 mmol, 37.62 g | FC1=C(CNC2=C(C=NC=C2)[N+](=O)[O-])C=CC=C1 | C12H10FN3O2
reactant | hydrochloric acid | 400 mL | Cl | ClH
product | 3-amino-2-chloro-4-[(2-fluorobenzyl)amino]pyridine | 27.13 g, 71% | NC=1C(=NC=CC1NCC1=C(C=CC=C1)F)Cl | C12H11ClFN3
